US06677368B2
1-[4-(5,6,7,8-Tetrahydro-1H-pyrrolo[3,2-b]azepine-4-carbonyl)-piperidin-1-yl]-ethanone (1.1 g) was formylated with POCl3 (186 μL, 1.2 eq.) and DMF using standard Vilsmierer condition to give 240 mg of 4-(1-acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde as a gold colored solid.

reactant | 1-[4-(5,6,7,8-Tetrahydro-1H-pyrrolo[3,2-b]azepine-4-carbonyl)-piperidin-1-yl]-ethanone | 1.1 g | N1C=CC=2N(CCCCC21)C(=O)C2CCN(CC2)C(C)=O | C16H23N3O2
reactant | POCl3 | 186 μL, 1.2 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | gold | [Au] | Au
product | 4-(1-acetyl-piperidine-4-carbonyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde | 240 mg | C(C)(=O)N1CCC(CC1)C(=O)N1C2=C(CCCC1)NC(=C2)C=O | C17H23N3O3
